US06248740B1
Production of 6-chloro-2-methoxyimidazo[1,2-b]pyridazine
2.69 g of 6-chloro-2-hydroxyimidazo[1,2-b]pyridazine was suspended in 30 ml of N,N-dimethylformamide; 838 mg of a 60% sodium hydride dispersion in mineral oil was added little by little, followed by stirring at room temperature for 30 minutes. Under ice water cooling conditions, 1.2 ml of methyl iodide was added, followed by stirring at room temperature for 3 days. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (5:1). The desired fraction was collected and concentrated to yield 1.05 g of the title compound.

reactant | 6-chloro-2-hydroxyimidazo[1,2-b]pyridazine | 2.69 g | ClC=1C=CC=2N(N1)C=C(N2)O | C6H4ClN3O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1.2 ml | CI | CH3I
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-chloro-2-methoxyimidazo[1,2-b]pyridazine | 1.05 g | ClC=1C=CC=2N(N1)C=C(N2)OC | C7H6ClN3O
